US06916815B2
[2-(2-Hydroxyethoxy)ethyl]carbamic acid tert-butyl ester:
(S)-2-Hydroxymethylmorpholine and (R)-2-hydroxymethylmorpholine: Berg, S.; Larsson, L.; Renyi, L.; Ross, S. B.; Thorberg, S.; Thorell-Svantesson, G. J. Med. Chem. 1998, 41, 1934. These amino-alcohols were converted to (S)-2-Hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester (R)-2-Hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester by Procedure A above.

reactant | (S)-2-Hydroxymethylmorpholine | OC[C@@H]1CNCCO1 | C5H11NO2
reactant | (R)-2-hydroxymethylmorpholine | OC[C@H]1CNCCO1 | C5H11NO2
reactant | (S)-2-Hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester (R)-2-Hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)CO.C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CO | 2C10H19NO4
product | [2-(2-Hydroxyethoxy)ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOCCO)=O | C9H19NO4
